US08202876B2
A mixture of (6-hydrazino-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester (4.0 g, 16.7 mmol), 2-cyano-3-ethoxy-acrylic acid ethyl ester (3.02 g, 17.5 mmol) and ethanol (25 mL) is heated to reflux for 4 hours. The reaction mixture is then concentrated and triturated with water (10 mL). White precipitate forms. After filtration, the undissolved solid is further washed with water, then air-dried to give 5-amino-1-[6-(tert-butoxycarbonyl-methyl-amino)-pyrimidin-4-yl]-1H-pyrazole-4-carboxylic acid ethyl ester as white powder.

reactant | (6-hydrazino-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester | 16.7 mmol, 4.0 g | C(C)(C)(C)OC(N(C)C1=NC=NC(=C1)NN)=O | C10H17N5O2
reactant | 2-cyano-3-ethoxy-acrylic acid ethyl ester | 17.5 mmol, 3.02 g | C(C)OC(C(=COCC)C#N)=O | C8H11NO3
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-amino-1-[6-(tert-butoxycarbonyl-methyl-amino)-pyrimidin-4-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1N)C1=NC=NC(=C1)N(C)C(=O)OC(C)(C)C | C16H22N6O4
